US06432993B1
(28-2) 5-{4-[6-(4-Hydroxy-2,5-dimethylphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride
A mixture of t-butyl N-{2-[4-(2,4-dioxothiazolidine-5-ylmethyl)phenoxyacetylamino]-5-(4-hydroxy-2,5-dimethylphenoxy)phenyl}-N-methylcarbamate (0.71 g) and 4N hydrogen chloride/dioxane (10 ml) was stirred at room temperature for 17 hours. The solvent of the reaction mixture was evaporated to dryness. To the residue was added ethyl acetate and insoluble product was isolated by filtration and subjected to reversed-phase high performance liquid chromatography using acetonitrile/water=9/11 as the eluant and then treated with 4N hydrogen chloride/ethyl acetate to give the title compound (0.41 g).

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidine-5-ylmethyl)phenoxyacetylamino]-5-(4-hydroxy-2,5-dimethylphenoxy)phenyl}-N-methylcarbamate | 0.71 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=C(C=C(C(=C2)C)O)C)N(C(OC(C)(C)C)=O)C)C=C1 | C32H35N3O8S
reactant | hydrogen chloride dioxane | 4N, 10 ml | Cl.O1CCOCC1
reactant | hydrogen chloride ethyl acetate | 4N | Cl.C(C)(=O)OCC
solvent | acetonitrile water | C(C)#N.O
product | 5-{4-[6-(4-Hydroxy-2,5-dimethylphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride | 0.41 g | Cl.OC1=CC(=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1C)C | InChI=1S/C27H25N3O5S.ClH/c1-15-11-23(16(2)10-22(15)31)35-19-8-9-20-21(13-19)30(3)25(28-20)14-34-18-6-4-17(5-7-18)12-24-26(32)29-27(33)36-24;/h4-11,13,24,31H,12,14H2,1-3H3,(H,29,32,33);1H
